US05210092
To a suspension of sodium hydride (114 mg, 60% oil dispersion) in dimethyl sulfoxide (5 ml) was added dropwise a solution of 2-butyrylamino-4-methyl-3-nitropyridine (605 mg) in dimethyl sulfoxide (10 ml) at ambient temperature under nitrogen atmosphere. The mixture was stirred at the same temperature for one hour and a solution of 1-(4-bromomethylphenyl)-4-chloropyrrole-2-carbonitrile (800 ml) in dimethyl sulfoxide (10 ml) was added therein. The reaction mixture was stirred at ambient temperature for 2 hours and quenched with ice water. The separated oil was extracted twice with ethyl acetate. The combined extracts were washed with water, dried, and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluted by n-hexane/ethylacetate (2/1-1/1) to yield 2-[N-butyryl-N-[4-(4-chloro-2-cyano-1-pyrrolyl)benzyl]amino]-4-methyl-3-nitropyridine (723 mg).

reactant | sodium hydride | 114 mg | [H-].[Na+]
reactant | 2-butyrylamino-4-methyl-3-nitropyridine | 605 mg | C(CCC)(=O)NC1=NC=CC(=C1[N+](=O)[O-])C | C10H13N3O3
reactant | 1-(4-bromomethylphenyl)-4-chloropyrrole-2-carbonitrile | 800 ml | BrCC1=CC=C(C=C1)N1C(=CC(=C1)Cl)C#N | C12H8BrClN2
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 2-[N-butyryl-N-[4-(4-chloro-2-cyano-1-pyrrolyl)benzyl]amino]-4-methyl-3-nitropyridine | 723 mg | C(CCC)(=O)N(CC1=CC=C(C=C1)N1C(=CC(=C1)Cl)C#N)C1=NC=CC(=C1[N+](=O)[O-])C | C22H20ClN5O3
